US08222263B2
A solution of 2-aminobenzophenone (100 g, 0.51 mol), urea (55 g, 0.93 mol) and acetic acid (300 mL) was stirred at 110° C. for 18 h. The reaction mixture was cooled to rt and filtered. The solid was washed with water and dried under reduced pressure. 4-Phenylquinazolin-2(1H)-one was isolated as a yellow solid and was used without further purification.

reactant | 2-aminobenzophenone | 0.51 mol, 100 g | NC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C13H11NO
reactant | urea | 0.93 mol, 55 g | NC(=O)N | CH4N2O
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
product | 4-Phenylquinazolin-2(1H)-one | C1(=CC=CC=C1)C1=NC(NC2=CC=CC=C12)=O | C14H10N2O
